US08859566B2
To a solution of 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one (0.1 g, 0.22 mmol) in NMP (1.5 ml) under argon was added triethyl amine (0.113 g, 1.118 mmol) and ethyl glycine hydrochloride (0.096 g, 0.68 mmol). The reaction mixture was heated at 100° C. for 16 hours. To the reaction mixture ethyl acetate was added and it was washed with water and brine. Ethyl acetate layer was dried over sodium sulphate, filtered and concentrated under reduced pressure and residue obtained was purified by column chromatography to obtain {6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purin-2-ylamino}-acetic acid ethyl ester (0.080 g, 69%) as an off white solid.

reactant | 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 0.22 mmol, 0.1 g | ClC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C19H16ClF3N6O
reactant | triethyl amine | 1.118 mmol, 0.113 g | C(C)N(CC)CC | C6H15N
reactant | ethyl glycine hydrochloride | 0.68 mmol, 0.096 g | Cl.C(C)NCC(=O)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NMP | 1.5 ml | CN1CCCC1=O | C5H9NO
product | {6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purin-2-ylamino}-acetic acid ethyl ester | 0.080 g, 69% | C(C)OC(CNC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC)=O | C23H24F3N7O3
